US07700786B2
Triethylamine (0.22 g, 2.2 mmol) was added to a solution of 5-methyl-3-(6-methoxy-3-nitropyridin-2-yloxy)pyrazole (0.5 g, 2.0 mmol) in ethyl acetate (10 ml), and the mixture was cooled to 0° C. Ethyl isocyanate (0.16 g, 2.2 mmol) was added, and the mixture was stirred at an ambient temperature for 30 minutes. The mixture was allowed to have room temperature. After completion of the reaction, the reaction mixture was poured into 1N hydrochloric acid (10 ml) and extracted with ethyl acetate (10 ml×2). An organic layer was washed with water (10 ml×2), dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/6), to give a yellow viscous substance of N-ethyl-5-methyl-3-(6-methoxy-3-nitropyridin-2-yloxy)pyrazole-1-carboxamide (0.38 g, yield: 59.8%). 1H-NMR (CDCl3, TMS, ppm): δ 1.24 (t, J=7.3 Hz, 3H), 2.65 (d, J=0.8 Hz, 3H), 3.40 (dq, J=1.4 and 7.3 Hz, 2H), 3.84 (s, 3H), 6.02 (q, J=0.8 Hz, 1H), 6.57 (dd, J=3.5 and 8.8 Hz, 1H), 7.05 (br s, 1H), 8.41 (dd, J=3.5 and 8.8 Hz, 1H).

reactant | Triethylamine | 2.2 mmol, 0.22 g | C(C)N(CC)CC | C6H15N
reactant | 5-methyl-3-(6-methoxy-3-nitropyridin-2-yloxy)pyrazole | 2.0 mmol, 0.5 g | CC1=CC(=NN1)OC1=NC(=CC=C1[N+](=O)[O-])OC | C10H10N4O4
reactant | Ethyl isocyanate | 2.2 mmol, 0.16 g | C(C)N=C=O | C3H5NO
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-ethyl-5-methyl-3-(6-methoxy-3-nitropyridin-2-yloxy)pyrazole-1-carboxamide | 0.38 g, yield: 59.8% | C(C)NC(=O)N1N=C(C=C1C)OC1=NC(=CC=C1[N+](=O)[O-])OC | C13H15N5O5
